US08183380B2
1-Methyl-3-(morpholine-4-sulfonyl)-3H-imidazol-1-ium trifluoromethanesulfonate (0.139 g, 0.36 mmol) and (R)—N2-indan-1-yl-quinoline-2,6-diamine (0.10 g, 0.36 mmol) were dissolved in acetonitrile (2 mL) and stirred for 16 h at 80° C. The solvent was removed and the residue subjected to column chromatography (silica gel, heptane, ethyl acetate 4:1/1:1) to yield morpholine-4-sulfonic acid [2-((R)-indan-1-ylamino)-quinolin-6-yl]-amide (0.07 g, 45%) as a yellow solid; MS: m/e=425.7 (M+H+).

reactant | 1-Methyl-3-(morpholine-4-sulfonyl)-3H-imidazol-1-ium trifluoromethanesulfonate | 0.36 mmol, 0.139 g | FC(S(=O)(=O)[O-])(F)F.C[N+]1=CN(C=C1)S(=O)(=O)N1CCOCC1
reactant | (R)—N2-indan-1-yl-quinoline-2,6-diamine | 0.36 mmol, 0.10 g | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | morpholine-4-sulfonic acid [2-((R)-indan-1-ylamino)-quinolin-6-yl]-amide | 0.07 g, 45% | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NS(=O)(=O)N1CCOCC1 | C22H24N4O3S
